US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-benzoyl-2-methoxybenzamide
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 4-benzoyl-2-methoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 4-benzoyl-2-methoxybenzoic acid | C(C1=CC=CC=C1)(=O)C1=CC(=C(C(=O)O)C=C1)OC | C15H12O4
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-benzoyl-2-methoxybenzamide | CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C=C1)C(C1=CC=CC=C1)=O)OC)=O | C25H24N2O3
